### PR TITLE
feat: successor birthdays are numeric

### PR DESCRIPTION
**Pull request by plp127**
Prove that every cut whose birthday is a successor ordinal is numeric. This proves a conjecture from https://mathoverflow.net/questions/497321/birthday-of-a-surreal-number/497645#comment1298500_497645.

---

- [x] depends on: #435

### CODE REVIEW

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 1]
```diff
@@ -296,5 +296,113 @@ theorem _root_.Surreal.birthday_toGame (x : Surreal) : x.toGame.birthday = x.bir
   exact (hs ▸ birthday_simplestBtwn_le hsi).trans <|
     hy' ▸ max_le (birthday_supLeft_le y) (birthday_infRight_le y)
 
+theorem numeric_iff_birthday {x : Cut} : x.Numeric ↔ ¬Order.IsSuccPrelimit x.birthday := by
+  constructor
+  · rintro (_ | _) <;>
+      · simp only [birthday_leftSurreal, birthday_rightSurreal]
+        rw [← WithTop.coe_add_one, WithTop.isSuccPrelimit_coe_iff]
+        exact Order.not_isSuccPrelimit_add_one _
+  · intro h
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:305]:
```suggestion
  constructor <;> intro h
  · rw [birthday_of_numeric, ← WithTop.coe_add_one, WithTop.isSuccPrelimit_coe_iff]
    exact Order.not_isSuccPrelimit_add_one _
  · rw [Order.not_isSuccPrelimit_iff] at h
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 2]
```diff
@@ -296,5 +296,113 @@ theorem _root_.Surreal.birthday_toGame (x : Surreal) : x.toGame.birthday = x.bir
...
+        have hxu : x = leftSurreal u := by
+          apply le_antisymm
+          · rw [← hx]
+            apply sInf_le
+            exact Set.mem_image_of_mem leftSurreal hus
+          · rw [← hx, le_sInf_iff, Set.forall_mem_image]
+            intro v hv
+            rw [le_leftSurreal_iff, mem_right_leftSurreal]
+            exact hu v hv
+        rw [hxu]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:321]:
```suggestion
        obtain rfl : x = leftSurreal u := by
          apply le_antisymm <;> aesop
```
Or, if you want to avoid `aesop`,
```suggestion
        obtain rfl : x = leftSurreal u := by
          rw [← hx]
          apply le_antisymm
          · simpa using ⟨u, hus, le_rfl⟩ 
          · simpa
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 3]
```diff
@@ -296,5 +296,113 @@ theorem _root_.Surreal.birthday_toGame (x : Surreal) : x.toGame.birthday = x.bir
...
+        have he (v : Surreal) (hv : v ∈ s) : ∃ c, c ≤ v ∧ c.birthday < b ∧ ∃ w ∈ s, w ≤ c := by
+          obtain ⟨w, hws, hwv⟩ := hs v hv
+          have hvb := birthday_lt_sSup_birthday hv
+          have hwb := birthday_lt_sSup_birthday hws
+          rw [← hbs, WithTop.coe_lt_coe, Order.lt_add_one_iff] at hvb hwb
+          obtain hvb | hvb := hvb.eq_or_lt
+          · obtain hwb | hwb := hwb.eq_or_lt
+            · exact ⟨!{{w} | {v}}, (ofSets_lt_of_mem_right (by simp)).le,
+                birthday_ofSets_singleton_lt_of_birthday_eq hwb hvb hwv,
+                w, hws, (lt_ofSets_of_mem_left (by simp)).le⟩
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:334]: Ah, so here's the main proof idea. Really nice!
We can avoid the calls to `aesop` and `simp`.
```suggestion
            · exact ⟨_, (ofSets_lt_of_mem_right (mem_singleton v)).le,
                birthday_ofSets_singleton_lt_of_birthday_eq hwb hvb hwv,
                w, hws, (lt_ofSets_of_mem_left (mem_singleton w)).le⟩
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 4]
```diff
@@ -296,5 +296,113 @@ theorem _root_.Surreal.birthday_toGame (x : Surreal) : x.toGame.birthday = x.bir
...
+            exact Set.mem_image_of_mem leftSurreal hus
+          · rw [← hx, le_sInf_iff, Set.forall_mem_image]
+            intro v hv
+            rw [le_leftSurreal_iff, mem_right_leftSurreal]
+            exact hu v hv
+        rw [hxu]
+        constructor
+      · have hbs := Order.succ_eq_of_covBy hb
+        rw [Order.succ_eq_add_one, ← WithTop.coe_add_one, ← hsb] at hbs
+        have he (v : Surreal) (hv : v ∈ s) : ∃ c, c ≤ v ∧ c.birthday < b ∧ ∃ w ∈ s, w ≤ c := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:325]: I think writing it like this should simplify things later down. In particular, you can write `Set.range vv` instead of `⋃ v, Set.range (vv v)`. 
```suggestion
        have he (v : s) : ∃ c, c ≤ v ∧ c.birthday < b ∧ ∃ w ∈ s, w ≤ c := by
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 5]
```diff
@@ -296,5 +296,113 @@ theorem _root_.Surreal.birthday_toGame (x : Surreal) : x.toGame.birthday = x.bir
...
+            obtain ⟨w, hws, hwv⟩ := hvw v hv
+            rw [← hx]
+            refine sInf_le_of_le ?_ (leftSurreal_strictMono.monotone hwv)
+            exact mem_image_of_mem leftSurreal hws
+          · rw [← hx, le_sInf_iff, Set.forall_mem_image]
+            intro v hv
+            refine sInf_le_of_le ?_ (leftSurreal_strictMono.monotone (hvv v hv))
+            apply mem_image_of_mem
+            apply mem_iUnion_of_mem
+            apply mem_range_self
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:351]: Slows down the proof noticeably, but I think it's too good to pass on. Haven't found a `simp` only replacement.
```suggestion
          apply le_antisymm <;> aesop
```

**Review by vihdzp — COMMENTED** [review]
Really nice result!
The analogous golfs apply to the other branch.

**Comment by plp127** [comment]
I've applied most of the suggestions. Tomorrow I'll evaluate how long these `aesop`s take to compile.

File: CombinatorialGames/Surreal/Birthday/Cut.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Cut.lean]: I think `aesop` is fine here, my main problem with using `aesop` is that many of the uses I've encountered in this repo are horribly slow.

File: CombinatorialGames/Surreal/Birthday/Cut.lean (hunk 5 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Cut.lean]: Without using `aesop`, I was only able to halve the number of lines in this section.

**Review by vihdzp — APPROVED** [review]
